US04251444
2-(3-Benzoylthio-2-methylpropanoyl)-1,2,3,4-tetrahydroisoquinoline-3-carboxylic acid
To a solution of (-)-1,2,3,4-tetrahydroisoquinoline-3-carboxylic acid (7.0 g., 0.04 M) and sodium hydroxide (1.6 g., 0.04 M) in water (160 ml.) at 10° C. was slowly added (-)-3-benzoylthio-2-methylpropionyl chloride (9.7 g., 0.04 M). At the same time, from a separate dropping funnel, was added a solution of sodium hydroxide (1.6 g., 0.04 M) in water (15 ml), at such a rate that the solution was maintained at a pH between 9.5 and 7.5 pH units (final pH 7.5). After stirring overnight at 5° C., the reaction mixture was filtered and the clear filtrate acidified with dilute hydrochloric acid. The product was extracted into methylene chichloride, washed and dried over sodium sulfate. After filtration the solvent was removed by evaporation at reduced pressure, leaving a residue (14 g.). This material was separated on an HPLC preparative column (Prep Pak C18 column, Waters) using a mobile phase of 50 parts methanol, 50 parts water and 0.5 parts acetic acid. Two main fractions were obtained, 15% and 84%. The residue from the major fraction was dissolved in ether, washed and dried over sodium sulfate. After filtration the solvent was removed by evaporation at reduced pressure, leaving a white solid, the title compound (10 g.), m.p. 61-63, [α]D25 =-76.39 (C=1.55% EtOH.

reactant | (-)-1,2,3,4-tetrahydroisoquinoline-3-carboxylic acid | 0.04 M, 7.0 g | C1NC(CC2=CC=CC=C12)C(=O)O | C10H11NO2
reactant | sodium hydroxide | 0.04 M, 1.6 g | [OH-].[Na+]
reactant | (-)-3-benzoylthio-2-methylpropionyl chloride | 0.04 M, 9.7 g | C(C1=CC=CC=C1)(=O)SCC(C(=O)Cl)C | C11H11ClO2S
reactant | sodium hydroxide | 0.04 M, 1.6 g | [OH-].[Na+]
solvent | water | 160 ml | O | H2O
solvent | water | 15 ml | O | H2O
solvent | ether | CCOCC | C4H10O
product | 2-(3-Benzoylthio-2-methylpropanoyl)-1,2,3,4-tetrahydroisoquinoline-3-carboxylic acid | 10 g | C(C1=CC=CC=C1)(=O)SCC(C(=O)N1CC2=CC=CC=C2CC1C(=O)O)C | C21H21NO4S
